US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-quinolin-3-ylpiperazine-1-carboxamide
A mixed solution of bis(2,2,2-trichloroethyl) quinolin-3-ylimidodicarbonate (301.4 mg, 0.610 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.106 ml, 0.610 mmol) in dimethyl sulfoxide (2 ml) was stirred at 70° C. for 5 hours and then stirred at 80° C. for 1 hour and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Chloroform was poured to the residue, and 110 mg (43.2%) of the desired product as a solid was separated by filtration.

reactant | bis(2,2,2-trichloroethyl) quinolin-3-ylimidodicarbonate | 0.610 mmol, 301.4 mg | N1=CC(=CC2=CC=CC=C12)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C15H10Cl6N2O4
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.610 mmol, 0.106 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-quinolin-3-ylpiperazine-1-carboxamide | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=NC2=CC=CC=C2C1 | C22H20N6OS
